* NGSpice simulation io pin

.subckt pin 1
.param state=0

.if (state == 0)
* write LOW
Vxxx 1 0 0
.elseif (state == 1)
* write HIGH
Vxxx 1 0 5
.elseif (state == 2)
* read
Rxxx 1 0 1e18
.endif

.ends pin
