* NGSpice simulation io pin

.subckt pin 1
.param state=0

.if (state == 0)
* write LOW

* Vxxx 1 0 0
Rxxx 1 0 1

.elseif (state == 1)
* write HIGH
Vxxx 1 0 5
.elseif (state == 2)
* INPUT
Rxxx 1 0 1e18
.elseif (state == 3)
* INPUT_PULLUP
Rxxx 1 0 1e18

Rpullup 2 0 20K
Vpullup 2 1 5
.elseif (state == 4)
* INPUT_PULLDOWN

Rxxx 1 0 1e18
Rpulldown 1 0 20K
.endif

.ends pin
